US06384057B1
1-Trimethylsilyloxy-1-(furan-2-yl)ethylene (1.66 g, 9.1 mmol; prepared according to J. Chem. Soc.,Perkin Trans. I 1989, 1585) and CsF (0.41 g, 2.7 mmol) were added to a suspension of 3-cyclohexyl-1-(3-hydroxyphenyl)-2-propen-1-one on Wang resin (2.6 g, 1.82 mmol) in dimethyl sulfoxide (30 mL). The reaction mixture was heated to 70° C. for 3 h and the reaction was quenched with 10% AcOH/CH2Cl2. The resin was filtered, washed with DMIF (×2) and alternating MeOH and CH2Cl2 (×5), and dried under high vacuum overnight to give 2.7 g of 3-cyclohexyl-1-(3-hydroxyphenyl)-5-(furan-2-yl)-1,5-pentanedione on Wang resin.

reactant | 1-Trimethylsilyloxy-1-(furan-2-yl)ethylene | 9.1 mmol, 1.66 g | C[Si](OC(=C)C=1OC=CC1)(C)C | C9H14O2Si
reactant | CsF | 2.7 mmol, 0.41 g | [F-].[Cs+]
reactant | 3-cyclohexyl-1-(3-hydroxyphenyl)-2-propen-1-one | C1(CCCCC1)C=CC(=O)C1=CC(=CC=C1)O | C15H18O2
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 3-cyclohexyl-1-(3-hydroxyphenyl)-5-(furan-2-yl)-1,5-pentanedione | 2.7 g | C1(CCCCC1)C(CC(=O)C1=CC(=CC=C1)O)CC(=O)C=1OC=CC1 | C21H24O4
